### PR TITLE
feat(ErdosProblems): 123

### LINKED ISSUE #363: Erdős Problem 123
### What is the conjecture
    
https://www.erdosproblems.com/123

  Let $a,b,c$ be three integers which are pairwise coprime. Is every large integer the sum of distinct integers of the form $a^kb^lc^m$ ($k,l,m\geq 0$), none of which divide any other?

Status: open

### Prerequisites needed
None

See also #364.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jganten**
I am not sure if the proven variants are to be included, but here we go :)

fixes #363

### CODE REVIEW

File: FormalConjectures/ErdosProblems/123.lean [hunk 1]
```diff
@@ -0,0 +1,113 @@
...
+This represents numbers whose prime factors are restricted to those of $p$, $q$, and $r$.
+-/
+def PowersOfThree (p q r : ℕ) : Set ℕ :=
+  {n : ℕ | ∃ a b c : ℕ, n = p^a * q^b * r^c}
+
+/--
+Given three natural numbers `a`, `b`, `c`, this is the set of all natural numbers
+of the form $a^k b^l c^m$ where $k, l, m ≥ 0$.
+-/
+def powersOfThree (a b c : ℕ) : Set ℕ :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/123.lean]: Isn't this the same as the previous definition?

File: FormalConjectures/ErdosProblems/123.lean [hunk 2]
```diff
@@ -0,0 +1,113 @@
...
+/--
+The set of all natural numbers of the form $p^a q^b$ where $a, b ≥ 0$.
+This represents numbers whose prime factors are restricted to those of $p$ and $q$.
+-/
+def PowersOfTwo (p q : ℕ) : Set ℕ :=
+  {n : ℕ | ∃ a b : ℕ, n = p^a * q^b}
+
+/--
+The set of all natural numbers of the form $p^a q^b r^c$ where $a, b, c ≥ 0$.
+This represents numbers whose prime factors are restricted to those of $p$, $q$, and $r$.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/123.lean]: Note that the set you've defined isn't always the same as this set, since you need to account for multiplicities. For example, taking `(p, q, r) = (2^2, 3^2, 5^2)` should give you a counterexample.

File: FormalConjectures/ErdosProblems/123.lean [hunk 3]
```diff
@@ -0,0 +1,113 @@
...
+  inductive hypothesis to $n - 3^k$ (which is even).
+
+Reference: [Er92b] Erdős, Paul, _Some of my favourite problems in various branches
+of combinatorics_. Matematiche (Catania) (1992), 231-240.
+-/
+@[category research solved, AMS 11]
+theorem erdos_123.variants.powers_2_3 :
+    IsDComplete (PowersOfTwo 2 3) := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/123.lean:100]: (you're more than welcome to add the extra problem if you want to, but no pressure!)
```suggestion

-- TODO(Paul-Lez): add the last problem from the webpage. 

```

File: FormalConjectures/ErdosProblems/123.lean [hunk 4]
```diff
@@ -0,0 +1,113 @@
...
+of the form $a^k b^l c^m$ where $k, l, m ≥ 0$.
+-/
+def powersOfThree (a b c : ℕ) : Set ℕ :=
+  {n | ∃ k l m : ℕ, n = a^k * b^l * c^m}
+
+/--
+Helper predicate for pairwise coprimality of three integers.
+-/
+def PairwiseCoprime (a b c : ℕ) : Prop :=
+  Nat.Coprime a b ∧ Nat.Coprime b c ∧ Nat.Coprime a c
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/123.lean]: I'd be tempted to write this as (untested)
```suggestion
  Set.Pairwise {a, b, c} Nat.Coprime
```

**Comment by Paul-Lez** [comment]
> I am not sure if the proven variants are to be included, but here we go :)
> 
> fixes #363

Proved variants are very welcome!

File: FormalConjectures/ErdosProblems/123.lean (hunk 1 above)
Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean]: yes!

File: FormalConjectures/ErdosProblems/123.lean (hunk 2 above)
Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean]: Okay, I corrected this to our powers being a subset of the numbers whose prime factors are restricted to those of $p$, $q$, and $r$.

Should I maybe just omit this statement since its a little unnecessary?

File: FormalConjectures/ErdosProblems/123.lean (hunk 3 above)
Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean:100]: will look into it!

File: FormalConjectures/ErdosProblems/123.lean (hunk 4 above)
Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean]: So trying to prove the equivalence, I realized using `Set.Pairwise` introduces subtle changes to the property. 
To sum it up, using `Set.Pairwise` also allows for `a=b`, which is technically allowed by our definition. 
This sums it up:
```lean4
def PairwiseCoprime (a b c : ℕ) : Prop :=
  Nat.Coprime a b ∧ Nat.Coprime b c ∧ Nat.Coprime a c

def testPairwiseCoprime (a b c : ℕ) : Prop := Set.Pairwise {a, b, c} Nat.Coprime

example (a b : ℕ) (hab: (a=b)): Set.Pairwise {a, b} Nat.Coprime:= by
  simp [Set.Pairwise]
  tauto

example (a b : ℕ) (hab: (a=b)): a.Coprime b ↔ a=1 := by
  rw [hab]
  exact Nat.coprime_self b

example (a b : ℕ) (hab: ¬(a=b)): (¬(a=1 ∧ b=1) ∧ (a.Coprime b ∧ b.Coprime a) ) ↔ Set.Pairwise {a, b} Nat.Coprime:= by
  simp [Set.pairwise_insert, Nat.Coprime]
  grind
```

So I think its a more elegant way to put it, but it might make a standard form a little harder to get.

File: FormalConjectures/ErdosProblems/123.lean (hunk 3 above)
Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean:100]: just committed the last problem

File: FormalConjectures/ErdosProblems/123.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+**Erdős Problem #123**
+
+Let $a, b, c$ be three integers which are pairwise coprime. Is every large integer
+the sum of distinct integers of the form $a^k b^l c^m$ ($k, l, m ≥ 0$), none of which
+divide any other?
+
+Equivalently: is the set $\{a^k b^l c^m : k, l, m \geq 0\}$ d-complete?
+-/
+@[category research open, AMS 11]
+theorem erdos_123 (a b c : ℕ) (h_coprime : PairwiseCoprime a b c) :
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/123.lean]: I think we need to assert that `a`, `b`, and `c` are pairwise distinct here, otherwise this reduces to the corresponding question with two pairwise coprime integers. This was the original setting which motivated this Conjecture in the [source paper](https://scispace.com/pdf/on-some-sequences-of-integers-15llhntro7.pdf) of Erdős and Lewin.

Similarly, if any of `a`, `b`, `c` are `1` then this also reduces to the two-integer case, so I think the implicit assumption they they are all `>1` is present in the paper.

Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean]: You are right, in these cases the conjecture would not make a lot of sense, because in the two-integer case the conjecture only holds for `2`,`3`.

File: FormalConjectures/ErdosProblems/123.lean [hunk 6]
```diff
@@ -0,0 +1,124 @@
...
+    (s : Set ℕ) ⊆ A ∧                  -- The summands come from A
+    IsAntichain (· ∣ ·) (s : Set ℕ) ∧   -- No summand divides another
+    s.sum id = n                        -- They sum to n
+
+/--
+The set of all natural numbers of the form $p^a q^b$ where $a, b ≥ 0$.
+This is a subset of numbers whose prime factors are restricted to those of $p$ and $q$.
+-/
+def PowersOfTwo (p q : ℕ) : Set ℕ :=
+  {n : ℕ | ∃ a b : ℕ, n = p^a * q^b}
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]: May I complain that "powers of two" doesn't mean "p^a * q^b"? 😄 Maybe
```suggestion
def TwoPrimePowers (p q : ℕ) : Set ℕ :=
  {n : ℕ | ∃ a b : ℕ, n = p^a * q^b}
```

File: FormalConjectures/ErdosProblems/123.lean [hunk 7]
```diff
@@ -0,0 +1,124 @@
...
+
+/--
+The set of all natural numbers of the form $p^a q^b r^c$ where $a, b, c ≥ 0$.
+This is a subset of numbers whose prime factors are restricted to those of $p$, $q$, and $r$.
+-/
+def PowersOfThree (p q r : ℕ) : Set ℕ :=
+  {n : ℕ | ∃ a b c : ℕ, n = p^a * q^b * r^c}
+
+/--
+The subsets of powers of three which satisfy the criterion of being close to its smallest element. Namely for an arbitrary $ε > 0$ a finite subset $A$ of PowersOfThree is snug if for all $a ∈ A$, we have $a < (1 + ε) * min(A)$.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]: Can you break the long line?

File: FormalConjectures/ErdosProblems/123.lean [hunk 8]
```diff
@@ -0,0 +1,124 @@
...
+-/
+def IsSnug (ε : ℝ) (A : Finset ℕ) (hA : A.Nonempty) : Prop :=
+  ∀ a ∈ A, a < (1 + ε) * A.min' hA
+
+/--
+Helper predicate for pairwise coprimality of three integers.
+-/
+def PairwiseCoprime (a b c : ℕ) : Prop := Set.Pairwise {a, b, c} Nat.Coprime
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]: A more faithful alternative to Paul's suggestion would be
```suggestion
def PairwiseCoprime (a b c : ℕ) : Prop := Pairwise (Nat.Coprime on ![a, b, c])
```

File: FormalConjectures/ErdosProblems/123.lean [hunk 9]
```diff
@@ -0,0 +1,124 @@
...
+the sum of distinct integers of the form $a^k b^l c^m$ ($k, l, m ≥ 0$), none of which
+divide any other?
+
+Equivalently: is the set $\{a^k b^l c^m : k, l, m \geq 0\}$ d-complete?
+
+Note: For this not to reduce to the two-integer case, we need the integers
+to be greater than one and distinct.
+-/
+@[category research open, AMS 11]
+theorem erdos_123 (a b c : ℕ) (h_distinct : a ≠ b ∧ b ≠ c ∧ a ≠ c)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]: ... then this condition will become redundant
```suggestion
theorem erdos_123 (a b c : ℕ)
```

File: FormalConjectures/ErdosProblems/123.lean [hunk 10]
```diff
@@ -0,0 +1,124 @@
...
+    (h_gt_one : 1 < a ∧ 1 < b ∧ 1 < c) (h_coprime : PairwiseCoprime a b c) :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]: Please avoid assuming an `And`. Assume each constituent part separately

File: FormalConjectures/ErdosProblems/123.lean [hunk 11]
```diff
@@ -0,0 +1,124 @@
...
+  sorry
+
+/--
+A stronger conjecture for numbers of the form $2^k 3^l 5^j$.
+
+For any $ε > 0$, all large integers $n$ can be written as the sum of distinct integers $b_1 < ... < b_t$ of the form $2^k 3^l 5^j$ where $b_t < (1 + ϵ) b_1$.
+-/
+@[category research open, AMS 11]
+theorem erdos_123.variants.powers_2_3_5_snug :
+  (∀ ε > 0, ∀ᶠ (n : ℕ) in atTop, ∃ (A : Finset ℕ) (hA : (A : Set ℕ) ⊆ PowersOfThree 2 3 5) (hAnonempty : A.Nonempty) (hAsnug: IsSnug ε A hAnonempty), A.sum id = n) ↔ answer(sorry) := by sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]: Long line again

File: FormalConjectures/ErdosProblems/123.lean (hunk 7 above)
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]: The definition doesn't actually mention `PowersOfThree` anywhere. Could you clarify the docstring?

File: FormalConjectures/ErdosProblems/123.lean (hunk 6 above)
Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean]: Two prime powers seems also misleading to me, since p and q do not have to be prime, just coprime (which is not part of the definition but how it is used).
I read this as 'PowersOfTwo natural numbers'. I struggle to find a more descriptive name that is less wrong, but of course I am open to other suggestions.

File: FormalConjectures/ErdosProblems/123.lean (hunk 8 above)
Comment (jganten) [reply FormalConjectures/ErdosProblems/123.lean]: Thank you! This makes it a lot nicer - though the `on` notation did not work, so I used `Function.onFun`.

File: FormalConjectures/ErdosProblems/123.lean (hunk 6 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/123.lean]: Yeah, I see (although then I will complain that maybe you should be using `a` and `b` instead of `p` and `q`!). I have another suggestion: Don't write a new definition at all, but instead use `Submonoid.powers` (aka `powers` if you `open Submonoid`) and pointwise multiplicative of sets (available with `open scoped Pointwise`), ie your `PowersOfTwo a b` could become `powers a * powers b` and `PowersOfThree a b c` could become `powers a * powers b * powers c` (possibly with some `Set ℕ` annotations). At this point, I would suggest dropping the intermediate definitions.

File: FormalConjectures/ErdosProblems/123.lean (hunk 8 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/123.lean]: Sorry, the `on` notation is now hidden in the `Function` scope. You can do `open scoped Function` to access it
